US06232271B1
d) 4-Cyano-5diethoxymethyl-1-(1-methyl-5-methylthio-3-pyrazolyl)-pyrazole
0.6 g (1.5 mmol) of 4-cyano-5-diethoxymethyl-1-(4-chloro-1-methyl-5-methylsulfonyl-3-pyrazolyl)pyrazole (Example B.2) and 0.5 ml of ethylene glycol together with 10 mg of p-toluenesulfonic acid are heated under reflux in 20 ml of toluene for 3 hours. Shaking with sodium bicarbonate and water, drying (sodium sulfate) and concentration using a rotary evaporator gives, in crystalline form, the desired product which can be further purified, if required, by recrystallization or silica gel column chromatography.

reactant | 4-cyano-5-diethoxymethyl-1-(4-chloro-1-methyl-5-methylsulfonyl-3-pyrazolyl)pyrazole | 1.5 mmol, 0.6 g | C(#N)C=1C=NN(C1C(OCC)OCC)C1=NN(C(=C1Cl)S(=O)(=O)C)C | C14H18ClN5O4S
reactant | ethylene glycol | 0.5 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-Cyano-5diethoxymethyl-1-(1-methyl-5-methylthio-3-pyrazolyl)-pyrazole | C(#N)C=1C=NN(C1C(OCC)OCC)C1=NN(C(=C1)SC)C | C14H19N5O2S
